US03954844
to a solution of 1 part of (5Z,13E,15S)-10ξ,11ξ-epoxy-15-hydroxy-9-oxoprosta-5,13-dien-1-oic acid in 30 parts of pyridine at 5° is added 10 parts of acetic anhydride. The resultant mixture is allowed to stand at 5° for 18 hours, whereupon it is poured into 10 volumes of water. The mixture thus obtained is allowed to stand for 1 hour, then extracted with ethyl acetate. The extract is washed with water, dried over anhydrous sodium sulfate, and stripped of solvent by vacuum distillation. The residual red oil is taken up in benzene; and the benzene solution is chromatographed on silica gel, using benzene and mixtures thereof with increasing amounts of ethyl acetate as developing solvents. From an eluate comprising 20% ethyl acetate in benzene, on evaporation of solvent, (5Z,13E,15S)-15-acetoxy-10ξ,11ξ-epoxy-9-oxoprosta-5,13-dien-1-oic acid is obtained as a pale yellow oil.

reactant | (5Z,13E,15S)-10ξ,11ξ-epoxy-15-hydroxy-9-oxoprosta-5,13-dien-1-oic acid | O1C2C([C@H](C\C=C/CCCC(=O)O)[C@H](C21)\C=C\[C@H](CCCCC)O)=O | C20H30O5
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | (5Z,13E,15S)-15-acetoxy-10ξ,11ξ-epoxy-9-oxoprosta-5,13-dien-1-oic acid | C(C)(=O)O[C@H](/C=C/[C@H]1C2C(C([C@@H]1C\C=C/CCCC(=O)O)=O)O2)CCCCC | C22H32O6
